US09382188B2
step 4) 3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-(tetrahydro-2H-pyran-2-yloxy)phenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (84.1 mg) in ethanol (2.85 mL) was added 2N aqueous sodium hydroxide (357 μl) solution, and the mixture was stirred at room temperature for 20 hr. The reaction mixture was cooled to 0° C., neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (52.8 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 84.1 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC1OCCCC1)F | C36H44FNO5
reactant | sodium hydroxide | 2N, 357 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2.85 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-(tetrahydro-2H-pyran-2-yloxy)phenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid | 52.8 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC1OCCCC1)F | C34H40FNO5
